US07241785B2
A mixture of 6-(5-methyl-2-phenyl-4-thiazolylmethoxy)-3-pyridylmethanol (1.56 g) and thionyl chloride (10 ml) was stirred at room temperature for 1 hr. The mixture was concentrated under reduced pressure and ice water was added to the residue. The mixture was neutralized with saturated aqueous sodium hydrogen carbonate and extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography, and 5-chloromethyl-2-(5-methyl-2-phenyl-4-thiazolylmethoxy)pyridine (1.53 g, yield 92%) was obtained as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:2, volume ratio). The crystals were recrystallized from ethyl acetate-hexane. melting point: 78–79° C.

reactant | 6-(5-methyl-2-phenyl-4-thiazolylmethoxy)-3-pyridylmethanol | 1.56 g | CC1=C(N=C(S1)C1=CC=CC=C1)COC1=CC=C(C=N1)CO | C17H16N2O2S
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | 5-chloromethyl-2-(5-methyl-2-phenyl-4-thiazolylmethoxy)pyridine | 1.53 g, yield 92% | ClCC=1C=CC(=NC1)OCC=1N=C(SC1C)C1=CC=CC=C1 | C17H15ClN2OS
